### PR TITLE
feat(ErdosProblems): 965

### LINKED ISSUE #1841: Erdős Problem 965
### What is the conjecture
Is it true that, for any $2$-colouring of $\mathbb{R}$, there is a set $A\subseteq \mathbb{R}$ of cardinality $\aleph_1$ such that all sums $a+b$ with $a\neq b$ and $a,b\in A$ are the same colour?
(note: Instead of the cardinality, we can just say $A$ is uncountable)

This was disproved, i.e. in https://danieltsoukup.github.io/academic/finset_colouring.pdf

See
https://www.erdosproblems.com/latex/965

### [AMS categories](https://github.com/google-deepmind/formal-conjectures/labels?q=ams-)

* ams-03
* ams-05

### Choose either option
- [x] I plan on adding this conjecture to the repository
- [ ] This issue is up for grabs: I would like to see this conjecture added by somebody else

### PR DESCRIPTION
**Pull request by felixpernegger**
Closes #1841.

### CODE REVIEW

File: FormalConjectures/ErdosProblems/965.lean [hunk 1]
```diff
@@ -0,0 +1,57 @@
...
+- [HLS17] Hindman, Neil and Leader, Imre and Strauss, Dona, Pairwise sums in colourings of the reals. Abh. Math. Semin. Univ. Hambg. (2017), 275--287.
+- [Ko16] Komjáth, Péter, A certain 2-coloring of the reals. Real Anal. Exchange (2016), 227--231.
+- [SWCol] Sokoup Dániel and Weiss, William, Sums and Anti-Ramsey Colourings of ℝ. https://danieltsoukup.github.io/academic/finset_colouring.pdf
+-/
+
+namespace Erdos965
+
+/--
+Erdős asks in [Er75b] if for every 2-coloring of ℝ, there is an uncountable set $A ⊆ ℝ$ such that
+all sums $a + b$ for $a, b ∈ A, a ≠ b$.
```
Comment (Paul-Lez) [inline FormalConjectures/ErdosProblems/965.lean]:
```suggestion
all sums $a + b$ for $a, b ∈ A, a ≠ b$ have the same colour.
```

File: FormalConjectures/ErdosProblems/965.lean [hunk 2]
```diff
@@ -0,0 +1,57 @@
...
+
+In [Ko16] Péter Komjáth constructed a counterexample.
+The same result was proven independently in [SWCol] by Sokoup and Weiss.
+-/
+@[category research solved, AMS 03 05]
+theorem erdos_965 :
+    answer(False) ↔ ∀ f : ℝ → Fin 2, ∃ A : Set ℝ, ¬ A.Countable ∧
+      ∀ a b c d, a ∈ A → b ∈ A → c ∈ A → d ∈ A → a ≠ b → c ≠ d → f (a + b) = f (c + d) := by
```
Comment (Paul-Lez) [inline FormalConjectures/ErdosProblems/965.lean]:
```suggestion
      ∀ᵉ (a ∈ A) (b ∈ A) (c ∈ A) (d ∈ A), a ≠ b → c ≠ d → f (a + b) = f (c + d) := by
```

File: FormalConjectures/ErdosProblems/965.lean [hunk 3]
```diff
@@ -0,0 +1,57 @@
...
+
+/--
+In fact, in both [Ko16] and [SWCol] a generalized example for $k$-sums is constructed.
+-/
+@[category research solved, AMS 03 05]
+theorem erdos_965.generalization {k : ℕ} (hk : 2 ≤ k) :
+    answer(False) ↔ ∀ f : ℝ → Fin 2, ∃ A : Set ℝ, ¬ A.Countable ∧ ∀ s t : Finset ℝ,
+      ↑s ⊆ A → ↑t ⊆ A → s.card = k → t.card = k → f (s.sum id) = f (t.sum id) := by
+  sorry
+
```
Comment (Paul-Lez) [inline FormalConjectures/ErdosProblems/965.lean:56]:
```suggestion

-- TODO: add easier result by Erdos assuming continuum hypothesis.

```

File: FormalConjectures/ErdosProblems/965.lean [hunk 4]
```diff
@@ -0,0 +1,57 @@
...
+theorem erdos_965 :
+    answer(False) ↔ ∀ f : ℝ → Fin 2, ∃ A : Set ℝ, ¬ A.Countable ∧
+      ∀ a b c d, a ∈ A → b ∈ A → c ∈ A → d ∈ A → a ≠ b → c ≠ d → f (a + b) = f (c + d) := by
+  sorry
+
+/--
+In fact, in both [Ko16] and [SWCol] a generalized example for $k$-sums is constructed.
+-/
+@[category research solved, AMS 03 05]
+theorem erdos_965.generalization {k : ℕ} (hk : 2 ≤ k) :
```
Comment (Paul-Lez) [inline FormalConjectures/ErdosProblems/965.lean:52]: Based on the erdosproblems.com page, doesn't the result also hold for `k = 1`?
```suggestion
theorem erdos_965.generalization {k : ℕ} (hk : 1 ≤ k) :
```

**Review by Paul-Lez — APPROVED** [review]
Thanks!

File: FormalConjectures/ErdosProblems/965.lean (hunk 4 above)
Comment (felixpernegger) [reply FormalConjectures/ErdosProblems/965.lean:52]: No, if you colour an uncountable set with two colours, you will always have a monochromatic uncountable subset (which is case k=1). For $k \geq 2$ its the opposite.

File: FormalConjectures/ErdosProblems/965.lean (hunk 2 above)
Comment (felixpernegger) [reply FormalConjectures/ErdosProblems/965.lean]: thanks :)

File: FormalConjectures/ErdosProblems/965.lean (hunk 3 above)
Comment (felixpernegger) [reply FormalConjectures/ErdosProblems/965.lean:56]: I looked at Erdos' paper and indeed it only contains a remark, not a proof. So I dont think this is easier (the construction in https://danieltsoukup.github.io/academic/finset_colouring.pdf at least also doesnt seem terribly complicated, little under 2 pages)

File: FormalConjectures/ErdosProblems/965.lean (hunk 4 above)
Comment (felixpernegger) [reply FormalConjectures/ErdosProblems/965.lean:52]: The erdos problem website contains a typo I think, yeah

Comment (YaelDillies) [reply FormalConjectures/ErdosProblems/965.lean:52]: Mind leaving a comment to this effect on https://www.erdosproblems.com/forum/thread/965 ? :)
